US08440658B2
To a solution of (S)-3-(3,3-dimethylbutan-2-ylamino)-1-(4-fluorophenyl)propan-1-one (2.00 g, 7.97 mmol) and triethylamine (2.41 g, 23.9 mmol) in CH2Cl2 (20 mL) was added di-tert-butyl dicarbonate (4.25 g, 19.5 mmol) dropwise at 0° C., and the reaction mixture was stirred at rt overnight. The solution was washed with 10% citric acid, water and brine. The organic layer was dried over Na2SO4, filtered and concentrated to give the crude product, which was purified by chromatography to afford (S)-tert-butyl 3,3-dimethylbutan-2-yl(3-(4-fluorophenyl)-3-oxopropyl)carbamate (1.50 g, 54%). 1H NMR (CDCl3): 0.84 (s, 9H), 1.08 (d, 3H), 1.41 (m, 9H), 3.02 (m, 1H), 3.34 (m, 1H), 3.58 (m, 1H), 3.91-4.15 (m, 1H), 7.01-7.12 (m, 2H), 7.79-8.03 (m, 2H).

reactant | (S)-3-(3,3-dimethylbutan-2-ylamino)-1-(4-fluorophenyl)propan-1-one | 7.97 mmol, 2.00 g | CC([C@H](C)NCCC(=O)C1=CC=C(C=C1)F)(C)C | C15H22FNO
reactant | triethylamine | 23.9 mmol, 2.41 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 19.5 mmol, 4.25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 3,3-dimethylbutan-2-yl(3-(4-fluorophenyl)-3-oxopropyl)carbamate | 1.50 g, 54% | CC([C@H](C)N(C(OC(C)(C)C)=O)CCC(=O)C1=CC=C(C=C1)F)(C)C | C20H30FNO3
